US04640930
A mixture of 1.1 g of (±)-cis-2,3-dihydro-3-hydroxy2-(4-methoxyphenyl)naphtho[1,8-bc]-1,5-thiazocin-4(5H)-one, 0.48 g of powdered potassium carbonate and 0.425 g of 2-dimethylaminoethyl chloride in 25 mL of ethyl acetate was stirred and heated at reflux for 3 hours, then twice an additional 0.10 g of 2-dimethylaminoethyl chloride was added at 3 hour intervals. The mixture was heated at reflux for a total of 17 hours then was cooled to room temperature and filtered. The filtrate was diluted with 40 mL of ethyl acetate and washed with brine (40 mL) and dried (magnesium sulfate). Removal of the solvent gave 1.2 g (92%) of (±)-cis-2,3-dihydro-5-[2-(dimethylamino)ethyl]-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,8-bc]-1,5-thiazocin-4(5H)- one. A sample of this compound was crystallized from ethyl acetate, mp. 121°-122°.

reactant | (±)-cis-2,3-dihydro-3-hydroxy2-(4-methoxyphenyl)naphtho[1,8-bc]-1,5-thiazocin-4(5H)-one | 1.1 g | O[C@H]1C(NC2=C3C(S[C@H]1C1=CC=C(C=C1)OC)=CC=CC3=CC=C2)=O | C20H17NO3S
reactant | potassium carbonate | 0.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dimethylaminoethyl chloride | 0.425 g | CN(CCCl)C | C4H10ClN
reactant | 2-dimethylaminoethyl chloride | 0.10 g | CN(CCCl)C | C4H10ClN
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (±)-cis-2,3-dihydro-5-[2-(dimethylamino)ethyl]-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,8-bc]-1,5-thiazocin-4(5H)- one | 1.2 g, 92% | CN(CCN1C2=C3C(S[C@H]([C@H](C1=O)O)C1=CC=C(C=C1)OC)=CC=CC3=CC=C2)C | C24H26N2O3S
